US06407097B1
1 g (0.0052 mol) of benzofuran-2,3-dione 3-(O-methyloxime) 2-oxime with 1.5 g (0.0141 mol) of sodium carbonate and 3 g (0.016 mol) of 1,2-dibromoethane in 5 ml of dimethylformamide are stirred at 80° C. for 6 hours. The reaction mixture is subsequently poured into water and extracted with diethyl ether. The organic phase is washed with aqueous potassium hydroxide solution and dried over sodium sulphate. The solvent is distilled off under reduced pressure, giving 1.1 g (70.7% of theory) of crude benzofuran-2,3-dione 2-[O-(2-bromoethyl)-oxime] 3-(O-methyloxime) as a mixture of stereoisomers which is reacted further without any purification.

reactant | benzofuran-2,3-dione 3-(O-methyloxime) 2-oxime | 0.0052 mol, 1 g | CON=C1C(OC2=C1C=CC=C2)=NO | C9H8N2O3
reactant | sodium carbonate | 0.0141 mol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dibromoethane | 0.016 mol, 3 g | BrCCBr | C2H4Br2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | benzofuran-2,3-dione 2-[O-(2-bromoethyl)-oxime] 3-(O-methyloxime) | 1.1 g, 70.7% | CON=C1C(OC2=C1C=CC=C2)=NOCCBr | C11H11BrN2O3
